US07547710B2
To a solution of 2-{[(benzyloxy)carbonyl]amino}-5-hydroxybenzoic acid (92 g, 0.32 mol) and N,O-dimethylhydroxyamine hydrochloride (38 g, 0.38 mol) in N,N-dimethylformamide (500 ml) was added triethylamine (53 ml, 0.40 mol), and the mixture was stirred at room temperature for 10 min. To the reaction mixture was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (73 g, 0.38 mol), and the mixture was stirred at room temperature for 6 hrs. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (500 ml), and tert-butyl(dimethyl)silyl chloride (48 g, 0.32 mol) and imidazole (21 g, 0.32 mol) were added. The mixture was stirred at room temperature for 6 hrs., poured into water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography to give benzyl (4-{[tert-butyl(dimethyl)silyl]oxy}-2-{[methoxy(methyl)amino]carbonyl}phenyl)carbamate (91 g, yield 64%).

reactant | 2-{[(benzyloxy)carbonyl]amino}-5-hydroxybenzoic acid | 0.32 mol, 92 g | C(C1=CC=CC=C1)OC(=O)NC1=C(C(=O)O)C=C(C=C1)O | C15H13NO5
reactant | N,O-dimethylhydroxyamine hydrochloride | 0.38 mol, 38 g | Cl.CNOC
reactant | triethylamine | 0.40 mol, 53 ml | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.38 mol, 73 g | Cl.C(C)N=C=NCCCN(C)C
reactant | tert-butyl(dimethyl)silyl chloride | 0.32 mol, 48 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.32 mol, 21 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | benzyl (4-{[tert-butyl(dimethyl)silyl]oxy}-2-{[methoxy(methyl)amino]carbonyl}phenyl)carbamate | 91 g, yield 64% | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)C(=O)N(C)OC | C23H32N2O5Si
